US08114881B2
Ethyl oxo{[3-(trifluoromethyl)-phenyl]amino}acetate (8.04 g, 30.7 mmol) was dissolved in ethanol (50 ml, 99.5%). To the stirred solution was added 1-amino-2-propanol (racemic, 2.32 g, 31 mmol) in one portion, and the mixture was heated to reflux for 90 minutes. The mixture was allowed to cool and was evaporated to dryness, giving 8.80 g (99%) of N-(2-hydroxypropyl)-N′-[3-(trifluoromethyl)-phenyl]ethanediamide as a white solid.

reactant | Ethyl oxo{[3-(trifluoromethyl)-phenyl]amino}acetate | 30.7 mmol, 8.04 g | O=C(C(=O)OCC)NC1=CC(=CC=C1)C(F)(F)F | C11H10F3NO3
reactant | 1-amino-2-propanol | 31 mmol, 2.32 g | NCC(C)O | C3H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(2-hydroxypropyl)-N′-[3-(trifluoromethyl)-phenyl]ethanediamide | 8.80 g, 99% | OC(CNC(C(=O)NC1=CC(=CC=C1)C(F)(F)F)=O)C | C12H13F3N2O3
